US04956360
4-(4-Methyl-1-piperadinyl)acetyl-2-phenyl-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine
Chloroacetyl chloride (2.2 g) was added dropwise to a mixture of 2-phenyl-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine (3.0 g), triethylamine (3.6 ml) and methylenechloride (100 ml) under ice-cooling and stirring. After stirring for 30 mins. at room temperature, the mixture was distilled under reduced pressure to remove the solvent, and the residue was extracted with chloroform. The extract was washed with a saturated sodium hydrogen carbonate solution, water, dried over anhydrous sodium sulfate and the solvent removed by distillation under reduced pressure to give a crude product (4.0 g). To a solution of the above product (1.9 g) and triethylamine (2.6 ml) in 20 ml of THF was added N-methylpiperazine (1.4 ml), and the whole was stirred for 5 hrs. at room temperature. The reaction mixture was concentrated and extracted with ethyl ether. The extract was washed with water, dried and concentrated under reduced pressure. The residue was purified by a column chromatography on silica gel, converted into a salt of hydrochloric acid and then recrystallized from a mixture of isopropanol and ethyl ether to give the title compound (1.66 g, 56%).

reactant | Chloroacetyl chloride | 2.2 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-phenyl-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine | 3.0 g | C1(=CC=CC=C1)C=1SC=2NCCCCC2N1 | C13H14N2S
reactant | N-methylpiperazine | 1.4 ml | CN1CCNCC1 | C5H12N2
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
solvent | methylenechloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
product | 4-(4-Methyl-1-piperadinyl)acetyl-2-phenyl-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine | 1.66 g, 56% | CC1CCN(CC1)CC(=O)N1C2=C(CCCC1)N=C(S2)C2=CC=CC=C2 | C21H27N3OS
